US08124766B2
With a procedure similar to the example above, 3-{4-[(3-methoxymethyl-benzofuran-2-carbonyl)-amino]-phenoxy}-pyrrolidine-1-carboxylic acid ethyl ester was prepared from 3-methoxymethyl-benzofuran-2-carboxylic acid and 3-(4-amino-phenoxy)-pyrrolidine-1-carboxylic acid ethyl ester. LCMS calcd for C24H26N2O6 (m/e) 438, obsd 439 (M+H).

reactant | 3-methoxymethyl-benzofuran-2-carboxylic acid | COCC1=C(OC2=C1C=CC=C2)C(=O)O | C11H10O4
reactant | 3-(4-amino-phenoxy)-pyrrolidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CC(CC1)OC1=CC=C(C=C1)N | C13H18N2O3
product | 3-{4-[(3-methoxymethyl-benzofuran-2-carbonyl)-amino]-phenoxy}-pyrrolidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CC(CC1)OC1=CC=C(C=C1)NC(=O)C=1OC2=C(C1COC)C=CC=C2 | C24H26N2O6
